US05212187
N-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N'-[2-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]ethyl]urea
Preparation is effected analogously to Example 63, using 1 g (3.7 mmol) of N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,2-ethanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 1.15 g (5 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: ethyl acetate/methanol 9+1) analogously to Example 63 yields the purified title compound in the form of a dry foam; MS (+FAB method): m/z (rel. int. [%])=527 ([M+H]+ 3), 196 (100).

reactant | N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,2-ethanediamine | 3.7 mmol, 1 g | CN(CCN)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C17H23N3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 5 mmol, 1.15 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N'-[2-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]ethyl]urea | N(C(=N)N)C=1SC=C(N1)CSCCNC(=O)NCCN(C)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C25H34N8OS2
